US07767677B2
Synthesis of 6-chloro-2-(6-piperazin-1-ylpyridazin-3-yl)-1H-benzoimidazole
A mixture of 6-chloro-2-(6-chloropyridazin-3-yl)-1H-benzoimidazole (0.212 g, 0.800 mmol) and piperazine (0.260 g, 3.000 mmol) in 1-methyl-2-pyrrolidone (15 mL) was heated at 140° C. and stirred for 30 minutes. The solvent was evaporated in vacuo, the residue was diluted with water (100 mL) and stirred for 15 minutes. A white precipitate was formed which was collected by filtration and dried to afford the title compound.

reactant | 6-chloro-2-(6-chloropyridazin-3-yl)-1H-benzoimidazole | 0.800 mmol, 0.212 g | ClC=1C=CC2=C(NC(=N2)C=2N=NC(=CC2)Cl)C1 | C11H6Cl2N4
reactant | piperazine | 3.000 mmol, 0.260 g | N1CCNCC1 | C4H10N2
solvent | 1-methyl-2-pyrrolidone | 15 mL | CN1C(CCC1)=O | C5H9NO
product | 6-chloro-2-(6-piperazin-1-ylpyridazin-3-yl)-1H-benzoimidazole | ClC=1C=CC2=C(NC(=N2)C=2N=NC(=CC2)N2CCNCC2)C1 | C15H15ClN6
